US04107307
6-Methoxymethyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A mixture of 25.9 gm. of 3-[2 -(methoxymethyl)-4-imidazolyl]methylene carbazic acid ethyl ester and 125 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product, m.p. 200°-205° C.

reactant | 3-[2 -(methoxymethyl)-4-imidazolyl]methylene carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)COC)=O | C9H14N4O3
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Methoxymethyl-imidazo[1,5-d]-as-triazin-4(3H)-one | COCC1=NC=C2N1C(NN=C2)=O | C7H8N4O2
